US07884207B2
Under a nitrogen atmosphere sulfur trioxide pyridine complex (6.34 g, 39.8 mmol) was added portionwise to a chilled (0° C.) solution of tert-butyl 3-hydroxyazetidine-1-carboxylate (2.30 g) and triethylamine (5.55 mL, 39.8 mmol) in dimethyl sulfoxide (11.5 mL) and dichloromethane (23 mL). The solution was stirred at 0° C. for another hour, poured into 70 mL of saturated aqueous ammonium chloride and then extracted with diethyl ether (3×100 mL). The combined organics were washed with water (2×30 mL) and brine (20 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to give tert-butyl 3-oxoazetidine-1-carboxylate as a clear oil.

reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | 2.30 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | triethylamine | 39.8 mmol, 5.55 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 70 mL | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 11.5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
product | tert-butyl 3-oxoazetidine-1-carboxylate | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
